US07423150B2
Trifluoroacetic acid was added neat to tert-butyl 4-(2-methoxy-4-(methylamino)-5-nitrophenoxy)pyridine-2-carboxylate and stirred at room temperature for 5 hours. TFA was evaporated, solid product azeotroped with toluene then placed under vacuum for 24 hours to yield 4-(2-methoxy-4-(methylamino)-5-nitrophenoxy)pyridine-2-carboxylic acid. HPLC=3.07 min; MS: MH+=321

reactant | Trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 4-(2-methoxy-4-(methylamino)-5-nitrophenoxy)pyridine-2-carboxylate | COC1=C(OC2=CC(=NC=C2)C(=O)OC(C)(C)C)C=C(C(=C1)NC)[N+](=O)[O-] | C18H21N3O6
product | 4-(2-methoxy-4-(methylamino)-5-nitrophenoxy)pyridine-2-carboxylic acid | COC1=C(OC2=CC(=NC=C2)C(=O)O)C=C(C(=C1)NC)[N+](=O)[O-] | C14H13N3O6
